US05480883
To a 25 mL flask with 10 ml of abs. EtOH is added 0.137 g of 4-chloro-6,7-dimethoxyquinazoline and 0.087 g of 1-aminonaphthalene. The solution is heated to reflux whereupon the insoluble materials dissolve. After 5 minutes at reflux a precipatate forms. The solution is allowed to stir an additional 10 min before cooling and isolation of the product as the hydrochloride salt by simple filtration. High-vacuum drying of the solid provided analytically pure (6,7-dimethoxy-quinazolin-4-yl)-alpha-naphthalenylamine (0.142 g, white powder, m.p. 271°-273° C.

reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.137 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 1-aminonaphthalene | 0.087 g | NC1=CC=CC2=CC=CC=C12 | C10H9N
solvent | EtOH | CCO | C2H6O
product | (6,7-dimethoxy-quinazolin-4-yl)-alpha-naphthalenylamine | COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC=CC2=CC=CC=C12 | C20H17N3O2
